US04481142
9-Chloro-7-(2-fluorophenyl)-2-(4-methyl-1-piperazinyl)-5H-pyrimido[5,4-d][2]benzazepine hydrochloride
To a solution of 3.0 g (0.00838 mol) of 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine in 8 ml of N,N-dimethylformamide was added 2 g (0.02 mol) of N-methylpiperazine. After 20 hr ice water (40 ml) was added to the reaction which was then filtered. The solid was partitioned between 50 ml of dichloromethane and 50 ml of 1N hydrochloric acid, and the pH was adjusted to 1-2 with ammonium hydroxide. The resulting precipitate was filtered and recrystallized twice from methanol to give white prisms, mp 187°-194° C. The acid layer was made basic with ammonium hydroxide, and extracted with 100 ml of dichloromethane which was dried and evaporated. The oil was acidified with 1N hydrochloric acid, adjusted to pH 1-2 with ammonium hydroxide, cooled and filtered. The precipitate was recrystallized from methanol to give a further crop of the product.

reactant | 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 0.00838 mol, 3.0 g | ClC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H10Cl2FN3
reactant | N-methylpiperazine | 0.02 mol, 2 g | CN1CCNCC1 | C5H12N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 9-Chloro-7-(2-fluorophenyl)-2-(4-methyl-1-piperazinyl)-5H-pyrimido[5,4-d][2]benzazepine hydrochloride | Cl.ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)N3CCN(CC3)C)C=C1 | InChI=1S/C23H21ClFN5.ClH/c1-29-8-10-30(11-9-29)23-27-14-15-13-26-22(18-4-2-3-5-20(18)25)19-12-16(24)6-7-17(19)21(15)28-23;/h2-7,12,14H,8-11,13H2,1H3;1H
